US08039479B2
A solution of 0.5 M KHMDS in toluene (4.7 mL, 2.34 mmol) is added to a solution of 1,4-dioxaspiro[4.5]decan-8-one (1.80 mmol) and N-phenyltrifluoromethanesulfonimide (2.34 mmol) in dry THF (18 mL) at −78° C. under argon. After stirring at −78° C. for 4 hours, the mixture is quenched with H2O, extracted with diethyl ether and dried with MgSO4. After workup and silica flash chromatography (hexane/EtOAc 90:10), 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate is isolated: 1H NMR (CDCl3, 400 MHz) δ 5.66 (m, 1H), 3.98 (m. 4H), 2.53 (m, 2H), 2.40 (m, 2H), 1.90 (t, 2H). MS (ES+): 289.0 (M+1)+.

reactant | KHMDS | 0.5 M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 2.34 mmol, 4.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 1.80 mmol | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | N-phenyltrifluoromethanesulfonimide | 2.34 mmol | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
